US08604023B2
2-(5-(7-Chloro-1-methyl-3-(naphthalen-2-ylmethyl)-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)pyridin-2-ylamino)-2-oxoethyl acetate (20 mg, 0.04 mmol) was dissolved in methanol (0.5 mL) and water (0.1 mL), potassium carbonate was added and the mixture was stirred at ambient temperature for 45 minutes. The crude mixture as partitioned between ethyl acetate and water, the layers were separated, and the organic layer was dried with sodium sulfate, decanted, then concentrated in the presence of silica gel. Column chromatography eluting with a step gradient of 20-80% ethyl acetate in hexanes in 5% increments every 3 minutes provided N-(5-(7-chloro-1-methyl-3-(naphthalen-2-ylmethyl)-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)pyridin-2-yl)-2-hydroxyacetamide (8 mg, 43% yield). ESI m/z measured 521.1348 [M+H]+. calculated 521.1356.

reactant | 2-(5-(7-Chloro-1-methyl-3-(naphthalen-2-ylmethyl)-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)pyridin-2-ylamino)-2-oxoethyl acetate | 0.04 mmol, 20 mg | C(C)(=O)OCC(=O)NC1=NC=C(C=C1)C=1C2=C(N(C(C(N1)CC1=CC3=CC=CC=C3C=C1)=O)C)C=CC(=C2)Cl | C30H25ClN4O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 0.5 mL | CO | CH4O
solvent | water | 0.1 mL | O | H2O
product | N-(5-(7-chloro-1-methyl-3-(naphthalen-2-ylmethyl)-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)pyridin-2-yl)-2-hydroxyacetamide | 8 mg, 43% yield | ClC1=CC2=C(N(C(C(N=C2C=2C=CC(=NC2)NC(CO)=O)CC2=CC3=CC=CC=C3C=C2)=O)C)C=C1 | C28H23ClN4O3
